US08729068B2
A mixture of 307 mg of 3-{[1-(ethoxycarbonyl)cyclopropyl](isopropyl)sulfamoyl}benzoic acid, 0.10 mL of oxalyl chloride, 2.5 mL of dichloromethane, and one drop of DMF was stirred at room temperature for 2 hours, and then the reaction mixture was concentrated under reduced pressure. A mixture of the obtained crude product and 2.5 mL of dichloromethane was added to a mixture of 0.050 mL of pyridine, 250 mg of methyl 4-[2-(4-{[(2-amino-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate, and 2.5 mL of methylene chloride, followed by stirring at room temperature overnight. The reaction mixture was purified by silica gel column chromatography (hexane-chloroform) to obtain 279 mg of methyl 4-(2-{4-[({2-[(3-{[1-(ethoxycarbonyl)cyclopropyl](isopropyl)sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate as a yellow foamed solid.

reactant | 3-{[1-(ethoxycarbonyl)cyclopropyl](isopropyl)sulfamoyl}benzoic acid | 307 mg | C(C)OC(=O)C1(CC1)N(S(=O)(=O)C=1C=C(C(=O)O)C=CC1)C(C)C | C16H21NO6S
reactant | oxalyl chloride | 0.10 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 4-[2-(4-{[(2-amino-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 250 mg | NC=1SC2=C(C1C(=O)NC1=CC=C(C=C1)CCC1=CC=C(C(=O)OC)C=C1)CCCC2 | C25H26N2O3S
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | methylene chloride | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 0.050 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | methyl 4-(2-{4-[({2-[(3-{[1-(ethoxycarbonyl)cyclopropyl](isopropyl)sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate | 279 mg | C(C)OC(=O)C1(CC1)N(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)C(C)C | C41H45N3O8S2
